US07696210B2
7-Vinyl-pyrido[2,3-b]pyrazine:
7-Bromo-pyrido[2,3-b]pyrazine (560 mg, 2.7 mmol) was suspended in toluene (25 ml) with tributylvinyltin (2.30 ml, 8.1 mmol), tetrakis(triphenylphosphine) palladium (106 mg, 106 mmol) and LiCl (336 mg, 8.06 mmol). The mixture was heated to 100° C. under a nitrogen atmosphere. After 2 h, the reaction was complete and the toluene was removed under vacuum. The crude was taken up in ethyl acetate and washed three times with a 1 N HCl solution. The combined acid washings were washed twice with ethyl acetate. The acidic water was made basic with the addition of solid sodium carbonate, and extracted three times with ethyl acetate. The combined ethyl acetate extracts were washed with brine, dried using MgSO4, and concentrated under vacuum to yield the title product (250 mg, 59%) as a tan solid.1H NMR (DMSO-d6): δ=9.40 (d, 1H, J=2.5Hz), 9.08 (dd, 2H, J=12.3 Hz, 1.8 Hz), 8.60 (d, 1H, J=2.5 Hz), 7.11(m,1H), 6.40 (d, 1H, J=17.8 Hz,), 5.64 (d, 1H, J=11.3 Hz). Calculated mass=157.18, [M+H]+=158. HPLC Method D: 99.3% @ 210-370 nm; 99.7% @ 240 nm; RT=4.5 min.

reactant | 7-Bromo-pyrido[2,3-b]pyrazine | 2.7 mmol, 560 mg | BrC1=CC=2C(=NC=CN2)N=C1 | C7H4BrN3
reactant | tributylvinyltin | 8.1 mmol, 2.30 ml | C(CCC)C(=C(CCCC)CCCC)[Sn]
reactant | LiCl | 8.06 mmol, 336 mg | [Li+].[Cl-]
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine) palladium | 106 mmol, 106 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 7-Vinyl-pyrido[2,3-b]pyrazine | 250 mg, 59% | C(=C)C1=CC=2C(=NC=CN2)N=C1 | C9H7N3
